US06982348B2
To a solution of 1,1-dimethylethyl (1RS,2RS)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate (2.1 g, 5.08 mmol) in ethanol (25 ml) was added 20% hydrogen chloride ethanol solution (25 ml) and the mixture was heated under reflux for 1 hr. The reaction solution was evaporated under reduced pressure, and the residue was washed with diethyl ether to give (1RS,2RS)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride (1.7 g, 96%).

reactant | 1,1-dimethylethyl (1RS,2RS)-2-(4-fluorophenyl)-2-hydroxy-1-((4-(trifluoromethyl)phenyl)methyl)ethylcarbamate | 5.08 mmol, 2.1 g | FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)O | C21H23F4NO3
reactant | hydrogen chloride ethanol | 25 ml | C(C)O.Cl
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | (1RS,2RS)-1-(4-fluorophenyl)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)-2-propylamine hydrochloride | 1.7 g, 96% | Cl.FC1=CC=C(C=C1)C(C(CC1=CC=C(C=C1)C(F)(F)F)N)O | InChI=1S/C16H15F4NO.ClH/c17-13-7-3-11(4-8-13)15(22)14(21)9-10-1-5-12(6-2-10)16(18,19)20;/h1-8,14-15,22H,9,21H2;1H
